US06858651B2
5.0 g (16.1 mmol) 5-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexylidene]-pentanoic acid in 50 ml methanol were hydrogenated with 0.5 g 10% Pd/C in the presence of 0.94 ml (16.9 mmol, 1.05 eq) sodium methanolate for 1 h at RT. After filtration and evaporation of the solvent, the residue was dissolved in ether and acidified by adding 1M HCl. The organic phase was extracted with water, dried over MgSO4 and evaporated to give 5.3 g (quant) trans-5-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexyl]-pentanoic acid as light yellow oil, MS: (312 MH+).

reactant | 5-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexylidene]-pentanoic acid | 16.1 mmol, 5.0 g | C(C)(C)(C)OC(=O)N(C1CCC(CC1)=CCCCC(=O)O)C | C17H29NO4
reactant | sodium methanolate | 16.9 mmol, 0.94 ml, 1.05 eq | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | trans-5-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexyl]-pentanoic acid | 5.3 g | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)CCCCC(=O)O)C | C17H31NO4
